US03992440
The starting material is prepared as follows: The mixture of 19.6 g of 4-chloro-3-nitro-5-sulfamoylbenzoic acid, 280 ml of N aqueous sodium hydroxide and 11.8 g of 4-acetamidothiophenol is stirred for 24 hours at room temperature under nitrogen. It is filtered, the filtrate made strongly acidic with concentrated hydrochloric acid, the precipitate formed filtered off and recrystallized from 50% aqueous ethanol, to yield the 4-(4-acetamidophenylmercapto)-3-nitro-5-sulfamoylbenzoic acid, meltingat 168°.

reactant | 4-chloro-3-nitro-5-sulfamoylbenzoic acid | 19.6 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-acetamidothiophenol | 11.8 g | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
product | 4-(4-acetamidophenylmercapto)-3-nitro-5-sulfamoylbenzoic acid | C(C)(=O)NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C15H13N3O7S2
